US08022076B2
A reaction mixture of 4-chloro-2-chloromethyl-5-phenylthieno[2,3-d]pyrimidine (0.50 g, 1.69 mmol), 2-aminomethylpyridine (0.17 ml, 1.69 mmol), triethylamine (0.26 ml, 1.86 mmol) and propan-2-ol (15 ml) was stirred at ambient temperature for 4 days. The solution was then poured into water (150 ml) and extracted with ethyl acetate (3×75 ml). The combined organic extracts were dried (MgSO4) and the solvent removed in vacuo to give the crude product. Purification by flash chromatography (silica) eluting with ethyl acetate and 40°-60° petroleum ether (1:4) gave (2-chloromethyl-5-phenylthieno[2,3-d]pyrimidin-4-yl)pyridin-2-ylmethylamine as a yellow solid (0.17 g), m.p. 97°-99° C.

reactant | 4-chloro-2-chloromethyl-5-phenylthieno[2,3-d]pyrimidine | 1.69 mmol, 0.50 g | ClC=1C2=C(N=C(N1)CCl)SC=C2C2=CC=CC=C2 | C13H8Cl2N2S
reactant | 2-aminomethylpyridine | 1.69 mmol, 0.17 ml | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 1.86 mmol, 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | propan-2-ol | 15 ml | CC(C)O | C3H8O
solvent | water | 150 ml | O | H2O
product | (2-chloromethyl-5-phenylthieno[2,3-d]pyrimidin-4-yl)pyridin-2-ylmethylamine | 0.17 g | ClCC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2 | C19H15ClN4S
